US04405789
The operation is as in Example 1, but starting from 8.3 g of 4-[2-(2-indolyl)-ethyl]-piperidine and 0.18 g of triethylbenzylammonium chloride in 90 ml of chloroform, and 11 g of sodium hydroxide in solution in 22 ml of water. 1.45 g of 3-chloro-2-[2-(4-piperidyl)-ethyl]-quinoline are obtained the monohydrochloride of which melts at 162° C.

reactant | 4-[2-(2-indolyl)-ethyl]-piperidine | 8.3 g | N1C(=CC2=CC=CC=C12)CCC1CCNCC1 | C15H20N2
reactant | sodium hydroxide | 11 g | [OH-].[Na+]
reactant | monohydrochloride | Cl | ClH
reactant | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzylammonium chloride | 0.18 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 22 ml | O | H2O
product | 3-chloro-2-[2-(4-piperidyl)-ethyl]-quinoline | 1.45 g | ClC=1C(=NC2=CC=CC=C2C1)CCC1CCNCC1 | C16H19ClN2
